* C:\Users\Parmeet Singh Ghai\Documents\GitHub\AutomatedLockSystem\LTSpice\Draft1.asc
XU1 HOUR_CLOCK N003 Q1 Q2 Q3 Q4 Q5 Q6 Q7 Q8 Q9 Q10 Q11 Q12 VCC 0 CD4040B vdd=5 speed=1 tripdt=5n vdd1={vdd} speed1={speed} tripdt1={tripdt}
XU2 0 VCC N001 LT1086-5
C1 N001 0 0.1µ V=25 Irms=0 Rser=0.025 Lser=800p mfg="Würth Elektronik" pn="885012206071 WCAP-CSGP 0603" type="X7R"
C3 N001 0 10µ V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM21BR61E106KA73" type="X5R"
C2 VCC 0 0.1µ V=25 Irms=0 Rser=0.025 Lser=800p mfg="Würth Elektronik" pn="885012206071 WCAP-CSGP 0603" type="X7R"
C4 VCC 0 10µ V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM21BR61E106KA73" type="X5R"
V2 N001 0 8.4 Rser=0.150
D5 Q2 N002 1N4148
D6 Q5 N002 1N4148
D7 0 N002 1N4148
D8 0 N002 1N4148
D9 0 N002 1N4148
D10 0 N002 1N4148
D11 0 N002 1N4148
D12 0 N002 1N4148
XU7 DIS_SYS THRES_SYS P001 VCC SYSTEM_CLOCK THRES_SYS 0 VCC DIS THRES P002 MOTOR_RESET MOTOR_CLOCK THRES NE556_TRANSISTOR
C9 0 P002 0.1µ V=25 Irms=0 Rser=0.035 Lser=766p mfg="Würth Elektronik" pn="885012205085 WCAP-CSGP 0402" type="X7R"
R19 VCC DIS_SYS 8K tol=1 pwr=0.25
R20 DIS_SYS THRES_SYS 68K tol=1 pwr=0.1
C12 0 P001 0.1µ V=25 Irms=0 Rser=0.035 Lser=766p mfg="Würth Elektronik" pn="885012205085 WCAP-CSGP 0402" type="X7R"
XU8 N017 N018 C0 C1 C2 C3 VCC 0 74HC393 vcc=5 speed=1 tripdt=5n vcc1={vcc} speed1={speed} tripdt1a={tripdt}
C13 VCC 0 0.1µ V=25 Irms=0 Rser=0.025 Lser=800p mfg="Würth Elektronik" pn="885012206071 WCAP-CSGP 0603" type="X7R"
C14 VCC 0 10µ V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM21BR61E106KA73" type="X5R"
R1 N017 0 10K
R2 VCC R 4.7K
R3 HOUR_CLOCK 0 100K tol=1 pwr=0.1
R4 N003 SYSTEM_CLOCK 4.7K
C15 N017 VCC 0.1µ V=25 Irms=0 Rser=0.025 Lser=800p mfg="Würth Elektronik" pn="885012206071 WCAP-CSGP 0603" type="X7R"
C5 THRES_SYS 0 10µ V=25 Irms=0 Rser=0.0026 Lser=894p mfg="Würth Elektronik" pn="885012209028 WCAP-CSGP 1210" type="X7R"
XU3 N004 P003 N007 N009 N012 N014 N015 N005 NC_01 NC_02 NC_03 NC_04 VCC 0 74HC164 vcc=5 speed=1 tripdt=5n vcc1={vcc} speed1={speed} tripdt1={tripdt}
R5 N007 VCC 4.7K
XU4 N006 N010 N013 LOAD N008 N011 VCC 0 74HC393 vcc=5 speed=1 tripdt=5n vcc1={vcc} speed1={speed} tripdt1a={tripdt}
C6 VCC 0 0.1µ V=25 Irms=0 Rser=0.025 Lser=800p mfg="Würth Elektronik" pn="885012206071 WCAP-CSGP 0603" type="X7R"
C7 VCC 0 10µ V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM21BR61E106KA73" type="X5R"
R6 N006 0 10K
C8 N006 VCC 0.1µ V=25 Irms=0 Rser=0.025 Lser=800p mfg="Würth Elektronik" pn="885012206071 WCAP-CSGP 0603" type="X7R"
R7 N009 LOAD 4.7K
R8 N004 MOTOR_CLOCK 4.7K
R9 N010 MOTOR_CLOCK 4.7K
R10 P003 VCC 4.7K
XU5 sq0 sq1 sq2 sq3 NC_05 NC_06 NC_07 N023 NC_08 NC_09 NC_10 NC_11 N019 N021 N022 N024 ULN2003
M§F_NMOS1 N023 N025 0 0 AO6408
R§MOTOR1 VCC N019 50 tol=1 pwr=10
R§MOTOR2 VCC N021 50 tol=1 pwr=10
R§MOTOR3 VCC N022 50 tol=1 pwr=10
R§MOTOR4 VCC N024 50 tol=1 pwr=10
XU6 sq0 sq1 sq2 sq3 NC_12 NC_13 NC_14 N020 NC_15 NC_16 NC_17 NC_18 N024 N022 N021 N019 ULN2003
M§R_NMOS1 N020 R 0 0 AO6408
R11 N012 sq0 4.7K tol=1 pwr=0.25
R12 N014 sq1 4.7K tol=1 pwr=0.25
R13 N015 sq2 4.7K tol=1 pwr=0.25
R14 N005 sq3 4.7K tol=1 pwr=0.25
S§R_PHOTO1 0 R N016 NC_19 switch
V§R_EMITTER1 0 N016 PWL(6 0 6.1 5 6.5 5 6.6 0)
S§F_PHOTO1 0 NC_20 N026 NC_21 switch
V§F_EMITTER1 0 N026 PWL(6 0 6.1 5 6.5 5 6.6 0)
R15 VCC DIS 8K
R16 DIS THRES 68K tol=1 pwr=0.1
R17 N025 VCC 4.7K tol=1 pwr=0.25
D16 N025 MOTOR_RESET 1N4148
D17 R MOTOR_RESET 1N4148
R18 0 MOTOR_RESET 10K tol=1 pwr=0.25
M§F_NMOS2 N025 R 0 0 AO6408
C11 N027 0 100µ V=25 Irms=300m Rser=0.284 Lser=21.232n mfg="Würth Elektronik" pn="865080449011 WCAP-ASLI 8x6,5" type="Al electrolytic"
R21 R N027 4.7K tol=1 pwr=0.25
S1 N027 VCC N028 0 switch
V§EnableDelay1 N028 0 PWL(5 0)
R22 0 R 10K tol=1 pwr=0.25
R23 R 0 10K
C10 THRES 0 100µ V=25 Irms=0 Rser=0.0039 Lser=550p
D13 R C0 1N4148
D14 R C1 1N4148
D15 R C2 1N4148
D18 R C3 1N4148
R26 P004 N002 4.7K
XU9 Q1 Q3 Q4 Q6 HOUR_CLOCK VCC 0 74HC21 vcc=5 speed=1 tripdt=5n vcc1={vcc} speed1={speed} tripdt1={tripdt}
C16 VCC 0 0.1µ V=25 Irms=0 Rser=0.025 Lser=800p mfg="Würth Elektronik" pn="885012206071 WCAP-CSGP 0603" type="X7R"
C17 VCC 0 10µ V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM21BR61E106KA73" type="X5R"
M1 HOUR_CLOCK P004 0 0 AO6408
.model D D
.lib C:\Users\Parmeet Singh Ghai\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Parmeet Singh Ghai\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 1000 0 10 uic
.options reltol=0.01 abstol=1n chgtol=1p
.options gmin=1n cshunt=1p
.options itl1=500 itl2=5000 itl4=100
.include cd4000.lib
.include 74hc.lib
.model switch SW(ron=0.01 roff=1MEG vt=4.9 vh=0)
* 74HC393\nCLK = LOW to HIGH\nCLEAR = HIGH
* Test Pulse at 3600 (111000010000) Little Endian\n1s: 5 10 11 12  \n0s: 1 2 3 4 6 7 8 9
* 74HC164\nCLK = LOW to HIGH\nCLE = ACTIVE LOW
* 74HC393\nCLK = LOW to HIGH\nCLEAR = HIGH
.lib 74hc.lib
.lib C:\Users\Parmeet Singh Ghai\Documents\GitHub\AutomatedLockSystem\LTSpice\ULN2003.lib
.lib CD4000.lib
.lib LT1083.lib
.lib NE556_TRANSISTOR.lib
.backanno
.end
